US05041455
B. 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (1 ml, 15 mmol) and 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) in acetone (3 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 0.92 g (79%).

reactant | methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | CC(=CCOC=1C(=NSN1)C=1C=NC=CC1)C | C12H13N3OS
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].CC(=CCOC=1C(=NSN1)C=1C=[N+](C=CC1)C)C | InChI=1S/C13H16N3OS.HI/c1-10(2)6-8-17-13-12(14-18-15-13)11-5-4-7-16(3)9-11;/h4-7,9H,8H2,1-3H3;1H/q+1;/p-1
